US07939528B2
4-{[5-Amino-4-nitro-2-(trifluoromethyl)phenyl]oxy}benzaldehyde (0.167 g, 0.512 mmol) in 2.0 mL 4% acetic acid in methanol was treated with 4,4-dimethylcyclohexylamine (0.078 g, 0.614 mmol) followed by sodium cyanoborohydride (0.023 g, 0.358 mmol). The reaction was monitored by TLC and stirred until the starting aldehyde was consumed, then the reaction was diluted with water. This mixture was extracted with ethyl acetate, and the combined organics were dried (Na2SO4), filtered and concentrated. To a solution of the crude [(4-{[5-amino-4-nitro-2-(trifluoromethyl)phenyl]oxy}phenyl)methyl](4,4-dimethylcyclohexyl)amine (0.197 g, 0.450 mmol) in a 2:1 mixture of ethyl acetate/saturated NaHCO3 (3 mL total) was added di-tert-butyl dicarbonate (0.108 g, 0.495 mmol) with stirring. The reaction mixture stirred for 6 hours at ambient temperature and the layers separated. The aqueous layer was extracted 1×10 mL ethyl acetate and the combined organics dried (Na2SO4), filtered and concentrated to give 1,1-dimethylethyl [(4-{[5-amino-4-nitro-2-(trifluoromethyl)phenyl]oxy}phenyl)methyl](4,4-dimethylcyclohexyl)carbamate.

reactant | 4-{[5-Amino-4-nitro-2-(trifluoromethyl)phenyl]oxy}benzaldehyde | 0.512 mmol, 0.167 g | NC=1C(=CC(=C(C1)OC1=CC=C(C=O)C=C1)C(F)(F)F)[N+](=O)[O-] | C14H9F3N2O4
reactant | 4,4-dimethylcyclohexylamine | 0.614 mmol, 0.078 g | CC1(CCC(CC1)N)C | C8H17N
reactant | sodium cyanoborohydride | 0.358 mmol, 0.023 g | C(#N)[BH3-].[Na+]
reactant | [(4-{[5-amino-4-nitro-2-(trifluoromethyl)phenyl]oxy}phenyl)methyl](4,4-dimethylcyclohexyl)amine | 0.450 mmol, 0.197 g | NC=1C(=CC(=C(C1)OC1=CC=C(C=C1)CNC1CCC(CC1)(C)C)C(F)(F)F)[N+](=O)[O-] | C22H26F3N3O3
reactant | di-tert-butyl dicarbonate | 0.495 mmol, 0.108 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetic acid | 2.0 mL | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | 1,1-dimethylethyl [(4-{[5-amino-4-nitro-2-(trifluoromethyl)phenyl]oxy}phenyl)methyl](4,4-dimethylcyclohexyl)carbamate | NC=1C(=CC(=C(C1)OC1=CC=C(C=C1)CN(C(OC(C)(C)C)=O)C1CCC(CC1)(C)C)C(F)(F)F)[N+](=O)[O-] | C27H34F3N3O5
